US07700623B2
To an ethanol (10 mL) suspension of 0.50 g of 4-(3-{4-[3-(4-{amino[(2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropionyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)-N′-[(2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropionyloxy]benzamidine was added 5 mL of 2.9 mol/L hydrogen chloride/ethanol under cooling with ice, which was then stirred at the same temperature for 20 minutes, followed by allowing to stand at room. temperature for 26 hours. The solvent was distilled off under reduced pressure, and the resultant residue was suspended in chloroform, followed by collecting solid matter by filtration to provide 0.50 g of 4-{3-[4-(3-{4-[amino((2S)-2-amino-3-phenylpropionyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-((2S)-2-amino-3-phenylpropionyloxy)benzamidine hydrochloride as slightly pale yellow solid form.

reactant | 4-(3-{4-[3-(4-{amino[(2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropionyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)-N′-[(2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropionyloxy]benzamidine | 0.50 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NOC([C@H](CC3=CC=CC=C3)NC(=O)OC(C)(C)C)=O)N)C=C2)C=C1)=NOC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C53H69N7O10
reactant | hydrogen chloride ethanol | 2.9 mol/L, 5 mL | Cl.C(C)O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino((2S)-2-amino-3-phenylpropionyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-((2S)-2-amino-3-phenylpropionyloxy)benzamidine hydrochloride | 0.50 g | Cl.NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NOC([C@H](CC3=CC=CC=C3)N)=O)N)C=C2)C=C1)=NOC([C@H](CC1=CC=CC=C1)N)=O | InChI=1S/C43H53N7O6.ClH/c44-38(29-32-9-3-1-4-10-32)42(51)55-48-40(46)34-14-18-36(19-15-34)53-27-7-13-31-22-25-50(26-23-31)24-8-28-54-37-20-16-35(17-21-37)41(47)49-56-43(52)39(45)30-33-11-5-2-6-12-33;/h1-6,9-12,14-21,31,38-39H,7-8,13,22-30,44-45H2,(H2,46,48)(H2,47,49);1H/t38-,39-;/m0./s1
